US05475000
Preparation of 3-(2-isopropyl-2H-tetrazol-5-yl)-4-oxo-4H-pyrido [1,2 -a ]pyrimidine
A mixture of 0.9 g (0.0042 moles) of 3-(1H-tetrazol-5-yl)-4-oxo-4H-pyrido[1,2-a]pyrimidine, 25 ml of dimethylformamide, 1.15 g (0.0084 moles) of anhydrous potassium carbonate and 1.1 ml (0.0126 moles) of isopropyl bromide was stirred at 90° C. for 1 hour. The hot yellow solution was filtered, the filtrate evaporated. To the crystalline residue 25 ml of water was added, and the crystals were collected. 0.6 g (55.8%) of the title compound was obtained, in the form of white crystals, m.p.: 146°-148° C.

reactant | 3-(1H-tetrazol-5-yl)-4-oxo-4H-pyrido[1,2-a]pyrimidine | 0.0042 moles, 0.9 g | N1N=NN=C1C1=CN=C2N(C1=O)C=CC=C2 | C9H6N6O
reactant | potassium carbonate | 0.0084 moles, 1.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl bromide | 0.0126 moles, 1.1 ml | C(C)(C)Br | C3H7Br
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 3-(2-isopropyl-2H-tetrazol-5-yl)-4-oxo-4H-pyrido [1,2 -a ]pyrimidine | 0.6 g, 55.8% | C(C)(C)N1N=C(N=N1)C1=CN=C2N(C1=O)C=CC=C2 | C12H12N6O
